US05849779
N-phenyl-N'-(4-ethoxycarbonyl-1-methylpyrazol-5-yl)urea
To a solution of 5-amino-4-ethoxycarbonyl-1-methylpyrazole (0.845 g) in benzene (50 ml), were added phenyl isocyanate (0.543 ml) and triethylamine (0.70 ml), and the mixture was refluxed in a sealed tube for 3 h. The reaction mixture was evaporated under reduced pressure followed by repeated addition of ether, and the title compound was obtained as crystals (0.36 g, yield 25%).

reactant | 5-amino-4-ethoxycarbonyl-1-methylpyrazole | 0.845 g | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
reactant | phenyl isocyanate | 0.543 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-phenyl-N'-(4-ethoxycarbonyl-1-methylpyrazol-5-yl)urea | C1(=CC=CC=C1)NC(=O)NC1=C(C=NN1C)C(=O)OCC | C14H16N4O3
